US07022724B2
a) 3-(5-Methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindol-8-ol
8-Methoxy-3-(5-methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole (4.6 g, 13 mmol) in dichloromethane (70 ml) was stirred with boron tribronide (25 g) for five days. The reaction was cooled to −78° C. and diethyl ether was added dropwise followed by water. The reaction was warmed to room temperature and the organic layer was washed with water and dried, filtered and evaporated. The residue was purified by column chromatography on silica using methanol/dichloromethane to yield the title compound.

reactant | 8-Methoxy-3-(5-methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindole | 13 mmol, 4.6 g | COC1=CC=C2CN3C(C2=C1)=NN=C3C=3C(=NOC3C)C3=CC=CC=C3 | C20H16N4O2
reactant | boron | [B] | B
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3-(5-Methyl-3-phenylisoxazol-4-yl)-5H-[1,2,4]triazolo[3,4-a]isoindol-8-ol | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C2N1CC1=CC=C(C=C21)O | C19H14N4O2
